US07429607B2
A solution of acetic acid 2-(2-ethoxy-naphthalen-1-yl)-2-oxo-ethyl ester (6.1 g), industrial methylated spirits (40 mL) and 1M hydrochloric acid (30 mL) was heated at reflux for 2 hours. After cooling to room temperature, the solvent was removed under reduced pressure to afford a brown oil. Purification by column chromatography, eluting with 30% to 40% ethyl acetate in cyclohexane, afforded 1-(2-ethoxy-naphthalen-1-yl)-2-hydroxy-ethanone (3.7 g, 71%) as an orange solid. 1H NMR (CDCl3): 1.4 (3H, t, J=7.0 Hz), 3.5 (1H, t, J=5.1 Hz), 4.2 (2H, q, J=7.0 Hz), 4.75 (2H, d, J=5.1 Hz), 7.25 (1H, d, J=9.0 Hz), 7.35 (1H, m), 7.5 (1H, m), 7.75 (1H, d, J=8.1 Hz), 7.85 (1H, d, J=7.8 Hz), 7.9 (1H, d, J=9.0 Hz).

reactant | acetic acid 2-(2-ethoxy-naphthalen-1-yl)-2-oxo-ethyl ester | 6.1 g | C(C)OC1=C(C2=CC=CC=C2C=C1)C(COC(C)=O)=O | C16H16O4
solvent | hydrochloric acid | 1M, 30 mL | Cl | ClH
product | 1-(2-ethoxy-naphthalen-1-yl)-2-hydroxy-ethanone | 3.7 g, 71% | C(C)OC1=C(C2=CC=CC=C2C=C1)C(CO)=O | C14H14O3
